US09388174B2
A reaction mixture solution prepared by suspending 77.8 mg of 3-chloro-4-fluorobenzonitrile, 51.8 mg of phenol and 82.9 mg of potassium carbonate in 2 mL of dimethylsulfoxide was heated at 100° C. for 14 hours under a nitrogen atmosphere. Subsequently, 24.0 mg of sodium hydride and 40.8 mg of imidazole were added to the reaction mixture solution, and the mixture was heated at 140° C. for 5 hours under a nitrogen atmosphere. After the addition of water to the reaction mixture solution, extraction was performed using ethyl acetate. The organic phase is washed with saline, followed by drying and concentrating under reduced pressure. The resulting crude product was separated and purified by silica gel column chromatography to obtain 65.2 mg of 3-(1H-imidazol-1-yl)-4-phenoxybenzonitrile.

reactant | 3-chloro-4-fluorobenzonitrile | 77.8 mg | ClC=1C=C(C#N)C=CC1F | C7H3ClFN
reactant | phenol | 51.8 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 82.9 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydride | 24.0 mg | [H-].[Na+]
reactant | imidazole | 40.8 mg | N1C=NC=C1 | C3H4N2
solvent | dimethylsulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-(1H-imidazol-1-yl)-4-phenoxybenzonitrile | 65.2 mg | N1(C=NC=C1)C=1C=C(C#N)C=CC1OC1=CC=CC=C1 | C16H11N3O
